US05530143
Chem. Soc. Perkin Trans. I (1988) 9 describes the preparation thereof from the malic acid derivative (S)-4-phenylmethoxy-1,2-butanediol by a multistage reaction sequence with the intermediates (R)-4-phenylmethoxy-1,2-butanediol, (R)-(2-phenylmethoxyethyl)oxirane, 6-hydroxy-8-(phenylmethoxy)-l-octene to give methyl (6S)-6,8-dihydroxyoctanoate.

reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | (R)-4-phenylmethoxy-1,2-butanediol | C1(=CC=CC=C1)COCC[C@H](CO)O | C11H16O3
reactant | (R)-(2-phenylmethoxyethyl)oxirane | C1(=CC=CC=C1)COCC[C@H]1OC1 | C11H14O2
reactant | 6-hydroxy-8-(phenylmethoxy)-l-octene | OC(CCCC=C)CCOCC1=CC=CC=C1 | C15H22O2
product | methyl (6S)-6,8-dihydroxyoctanoate | O[C@@H](CCCCC(=O)OC)CCO | C9H18O4
